US08431576B2
(7-(4-(4-(2,3-dichlorophenyl)piperazin-1-yl)butoxy)-2-oxo-3,4-dihydroquinolin-1(2H)-yl)methyl decanoate (Example 14: Compound 6)
The chloromethyl ester above is dried over 4 Å molecular sieves. A solution of aripiprazole (45 grams, 0.1 mol) in 1,4-dioxane (800 mL) was sonicated to dissolve the aripiprazole completely, and then treated with NaH (38 g, 0.95 mol, 60% dispersion) in one portion. After stirring this reaction mixture for 15 minutes at room temperature, the reaction mixture was treated dropwise with chloromethyl ester (0.3 mol.) and a catalytic amount of sodium iodide (0.05 mol.). The resultant cloudy mixture was heated to 90° C. for 2 hours, cooled to ambient temperature and poured into water. The product was extracted with ethyl acetate, and the combined ethyl acetate layers washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. Column chromatography over silica gel provided the desired product (12.5 gram, 70% yield). 1H NMR (CDCl3, 300 MHz) δ 0.87 (t, 3H), 1.20 (m, 12H), 1.63 (m, 2H), 1.70 (m, 2H), 1.83 (m, 2H), 2.35 (t, 2H), 2.50 (t, 2H), 2.68 (m, 6H), 2.86 (t, 2H), 3.08 (m, 4H), 3.97 (t, 2H), 5.92 (s, 2H), 6.58 (dd, 1H), 6.61 (d, 1H), 6.94 (dd, 1H), 7.06 (d, 1H), 7.14-7.17 (m, 2H); m/z (M+H) 632.88.

reactant | aripiprazole | 0.1 mol, 45 grams | C=1C=C(C(=C(C1)Cl)Cl)N2CCN(CC2)CCCCOC=3C=CC4=C(C3)NC(=O)CC4 | C23H27Cl2N3O2
reactant | NaH | 0.95 mol, 38 g | [H-].[Na+]
reactant | sodium iodide | 0.05 mol | [I-].[Na+]
reactant | water | O | H2O
reactant | 1,4-dioxane | 800 mL | O1CCOCC1 | C4H8O2
product | (7-(4-(4-(2,3-dichlorophenyl)piperazin-1-yl)butoxy)-2-oxo-3,4-dihydroquinolin-1(2H)-yl)methyl decanoate | 12.5 gram, 70% yield | C(CCCCCCCCC)(=O)OCN1C(CCC2=CC=C(C=C12)OCCCCN1CCN(CC1)C1=C(C(=CC=C1)Cl)Cl)=O | C34H47Cl2N3O4
